US05101034
5.8 g (0.025 mol) of 2-methylsulphonyl-5-trifluoromethyl-1,3,4-thiadiazole, 4.4 g (0.026 mol) of N-methyl-2-hydroxyacetanilide, 3.8 g (0.038 mol) of potassium carbonate, 0.5 g of tetraethylammonium bromide and 50 ml of acetone are mixed in a 100 ml three-necked flask equipped with a stirrer and a thermometer, and the mixture is stirred for 20 hours at 20°-25° C. The undissolved salts are then filtered off and washed with acetone and the whole of the filtrate is freed of solvent in vacuo. The residue is taken up in 100 ml of diethyl ether, washed with dilute hydrochloric acid, dried over sodium sulphate and filtered, and the filtrate is freed of solvent in vacuo. The remaining oil crystallizes completely after a short time. 7.2 g (90.8% of theory) of 2-(5-trifluoromethyl-1,3,4-thiadiazol-2-yloxy)-N-methylacetanilide of melting point 63° C. are obtained.

reactant | 2-methylsulphonyl-5-trifluoromethyl-1,3,4-thiadiazole | 0.025 mol, 5.8 g | CS(=O)(=O)C=1SC(=NN1)C(F)(F)F | C4H3F3N2O2S2
reactant | N-methyl-2-hydroxyacetanilide | 0.026 mol, 4.4 g | CN(C1=CC=CC=C1)C(CO)=O | C9H11NO2
reactant | potassium carbonate | 0.038 mol, 3.8 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetraethylammonium bromide | 0.5 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(5-trifluoromethyl-1,3,4-thiadiazol-2-yloxy)-N-methylacetanilide | 7.2 g, 90.8% | FC(C1=NN=C(S1)OCC(=O)N(C1=CC=CC=C1)C)(F)F | C12H10F3N3O2S
